US08426449B2
Step 2: (3-{2-[((S)-Benzyloxycarbonyl-indan-1-yl-amino)-methyl]-4-bromo-phenoxy}-phenyl)-acetic acid methyl ester
Prepared according to the procedure described in Example 3, Step 3, using the following starting materials: {3-[4-bromo-2-((S)-indan-1-ylaminomethyl)-phenoxy]-phenyl}-acetic acid methyl ester and benzyl chloroformate.

reactant | {3-[4-bromo-2-((S)-indan-1-ylaminomethyl)-phenoxy]-phenyl}-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN[C@H]1CCC2=CC=CC=C12)=O | C25H24BrNO3
reactant | benzyl chloroformate | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (3-{2-[((S)-Benzyloxycarbonyl-indan-1-yl-amino)-methyl]-4-bromo-phenoxy}-phenyl)-acetic acid methyl ester | COC(CC1=CC(=CC=C1)OC1=C(C=C(C=C1)Br)CN([C@H]1CCC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1)=O | C33H30BrNO5
